US07119113B2
(RS)-2-Chloro-9H-xanthene-9-carboxylic Acid (4-trifluoromethyl-oxazol-2-yl)-amide
The title compound, white solid, m.p. 235° C. and MS: m/e=395.2, 397.2 (M+H+) is prepared in accordance with the general method of example 3c from 4-trifluoromethyl-oxazol-2-ylamine and (RS)-2-chloro-9H-xanthene-9-carboxylic acid (CAS:[188027-67-0]).

reactant | 4-trifluoromethyl-oxazol-2-ylamine | FC(C=1N=C(OC1)N)(F)F | C4H3F3N2O
reactant | (RS)-2-chloro-9H-xanthene-9-carboxylic acid | ClC1=CC=2C(C3=CC=CC=C3OC2C=C1)C(=O)O | C14H9ClO3
product | (RS)-2-Chloro-9H-xanthene-9-carboxylic Acid (4-trifluoromethyl-oxazol-2-yl)-amide | FC(C=1N=C(OC1)NC(=O)C1C2=CC=CC=C2OC=2C=CC(=CC12)Cl)(F)F | C18H10ClF3N2O3
